US07109192B2
136a) dimethyl 2-bromo-1-(but-2-ynyl)-1H-imidazol-4,5-dicarboxylate
A solution of 15.0 g (57.0 mmol) of dimethyl 2-bromo-imidazole-4,5-dicarboxylate, 5.15 ml (57.0 mmol) of 1-bromo-2-butyne and 50 ml of N,N-diisopropylethylamine in 280 ml of tetrahydrofuran was refluxed for one hour. The mixture was concentrated by evaporation, the residue combined with approx. 100 ml of water and extracted three times with 70 ml of ethyl acetate. The extracts were washed with 50 ml of water, dried and evaporated down. The crude product thus obtained was purified by column chromatography (silica gel; eluant:dichloromethane with 0–2% ethanol).

reactant | dimethyl 2-bromo-imidazole-4,5-dicarboxylate | 57.0 mmol, 15.0 g | BrC=1NC(=C(N1)C(=O)OC)C(=O)OC | C7H7BrN2O4
reactant | 1-bromo-2-butyne | 57.0 mmol, 5.15 ml | BrCC#CC | C4H5Br
reactant | N,N-diisopropylethylamine | 50 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
product | dimethyl 2-bromo-1-(but-2-ynyl)-1H-imidazol-4,5-dicarboxylate | Yield: 75% | BrC=1N(C(=C(N1)C(=O)OC)C(=O)OC)CC#CC | C11H11BrN2O4
